US07662828B2
Guanidine hydrochloride 7.07 g (74 mmol) was added at 0° C. to a solution of sodium 1.65 g (74 mmol) in absolute ethanol and stirring was performed for 2 h at RT under nitrogen as inert gas. 60 ml (60 mmol) of this reaction mixture were added to the solution of 3-dimethylaminomethylene-4-oxo-piperidine-1-carboxylic acid tert-butyl ester in 100 ml of absolute ethanol and refluxing was performed for 5 h. After removal of the solvent and purification by means of column chromatography, 2-amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 5.72 g (43% of theoretical) was obtained.

reactant | Guanidine hydrochloride | 74 mmol, 7.07 g | Cl.NC(=N)N
reactant | sodium | 74 mmol, 1.65 g | [Na] | Na
reactant | 3-dimethylaminomethylene-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CN(C)C | C13H22N2O3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 5.72 g, 43% | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)N)CC1 | C12H18N4O2
